US07816522B2
(32b) 5-fluoro-8-methoxy-4H-benzo[1,3]dioxine-6-carbaldehyde
To a solution of the 1.086 g of 5-fluoro-8-methoxy-4H-benzo[1,3]dioxine and 1.28 ml of N,N,N′,N′,N″-pentamethyldiethylenetriamine in 10 ml of THF there was added dropwise 2.4 ml of n-butyllithium (2.55 M, hexane solution) at −74° C. The mixture was stirred at −74° C. for 1 hour, and then 0.7 ml of N-formylmorpholine was added. After stirring at room temperature for 1 hour, 1N hydrochloric acid was added thereto while cooling on ice, and the mixture was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (153 mg) as an oil.

reactant | 5-fluoro-8-methoxy-4H-benzo[1,3]dioxine | 1.086 g | FC1=CC=C(C2=C1COCO2)OC | C9H9FO3
reactant | N,N,N′,N′,N″-pentamethyldiethylenetriamine | 1.28 ml | CN(C)CCN(C)CCN(C)C | C9H23N3
reactant | n-butyllithium | 2.55 M, 2.4 ml | C(CCC)[Li]
reactant | N-formylmorpholine | 0.7 ml | C(=O)N1CCOCC1 | C5H9NO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-fluoro-8-methoxy-4H-benzo[1,3]dioxine-6-carbaldehyde | 153 mg | FC1=C(C=C(C2=C1COCO2)OC)C=O | C10H9FO4
